US07476399B2
Benzo[1,3]dioxole-5-carboxylic acid [1-(4-methoxy-phenyl)-butyl]-amide
Prepared in a similar manner to example 4 using benzo[1,3]dioxole-5-carboxylic acid and 1-(4-methoxy-phenyl)-butylamine 1H NMR (500 MHz, CDCl3): δ 0.93-0.95 (t, 3H), 1.30-1.39 (m, 2H), 1.80-1.90 (m, 2H), 3.79 (s, 3H), 5.08-5.09 (dd, 1H), 6.00 (s, 2H), 6.10-6.12 (d, 1H), 6.79-6.80 (d, 1H), 6.87(s, 1H), 6.88 (s, 1H), 7.25-7.28 (m, 4H). MS (M+H, 328.1).

reactant | benzo[1,3]dioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 1-(4-methoxy-phenyl)-butylamine | COC1=CC=C(C=C1)C(CCC)N | C11H17NO
product | Benzo[1,3]dioxole-5-carboxylic acid [1-(4-methoxy-phenyl)-butyl]-amide | COC1=CC=C(C=C1)C(CCC)NC(=O)C1=CC2=C(OCO2)C=C1 | C19H21NO4
